US08058299B2
To a solution of diisopropylamine (7.64 mL, 54.5 mmol) in dry tetrahydrofuran (5 mL) at −78° C. was added n-butyl lithium (2.5 M, 20 mL, 50.0 mmol). The mixture was stirred at −65° C. for 30 minutes. Then ethyl isobutyrate (6.09 mL, 45.6 mmol) in tetrahydrofuran (5 mL) was added. The mixture was stirred at −60° C. for 45 minutes. To this solution was added 1-benzylpiperidone (6.15 g, 32.5 mmol) in 5 mL of tetrahydrofuran. The mixture was allowed to warm up to room temperature and stirred overnight. The mixture was quenched with ammonium chloride solution (30 mL) and extracted with ether (100 mL). The organic layer was first washed with brine and then dried over sodium sulfate. Solvents were evaporated and the residue was purified using flash chromatography (eluting with ethyl acetate and hexanes) to give 2-(1-benzyl-4-hydroxy-piperidin-4-yl)-2-methyl-propionic acid ethyl ester (5.87 g) as an oily material. The NMR spectrum obtained on the sample is compatible with its structure. LC-MS calcd for C18H27NO3 (m/e) 305.43, obsd 306.2 (M+H).

reactant | diisopropylamine | 54.5 mmol, 7.64 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 50.0 mmol, 2.5 M, 20 mL | C(CCC)[Li]
reactant | ethyl isobutyrate | 45.6 mmol, 6.09 mL | C(C(C)C)(=O)OCC | C6H12O2
reactant | 1-benzylpiperidone | 32.5 mmol, 6.15 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(1-benzyl-4-hydroxy-piperidin-4-yl)-2-methyl-propionic acid ethyl ester | 5.87 g | C(C)OC(C(C)(C)C1(CCN(CC1)CC1=CC=CC=C1)O)=O | C18H27NO3
